US08217028B2
To a solution of ethyl 3-(7-{5-[3,4-bis(methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate (D67) (100 mg) in tetrahydrofuran (10 mL) and methanol (10 mL) stirred at 20° C. was added a solution of sodium hydroxide (48 mg) in water (10 mL) in one charge. The reaction mixture was stirred at 20° C. for 4 h. The organic solvent was evaporated off and the mixture was acidified with HCl (1 M) solution to pH around 1. The solid was filtered and recrystallized from acetonitrile/EtOAc to afford 3-(7-{5-[3,4-bis(methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoic acid (E43) (72 mg). δH (DMSO-d6, 400 MHz): 2.61 (2H, t), 2.99 (2H, t), 3.90 (3H, s), 3.93 (3H, s), 7.21 (1H, t), 7.23 (1H, d), 7.26 (1H, d), 7.75 (1H, d), 7.81 (1H, d), 7.90 (1H, dd), 7.95 (1H, dd), 10.74 (1H, s). MS (ES): C21H19N3O6 requires 393; found 394.1 (M+H+).

reactant | ethyl 3-(7-{5-[3,4-bis(methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate | 100 mg | COC=1C=C(C=CC1OC)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)OCC | C23H23N3O5
reactant | sodium hydroxide | 48 mg | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-(7-{5-[3,4-bis(methyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoic acid | 72 mg | COC=1C=C(C=CC1OC)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)O | C21H19N3O5
